US05053524
18 g of 50% by weight sodium hydroxide solution were added dropwise to 17.7 g of p-diethylaminobenzaldehyde and 26.4 g of acetophenone in 150 ml of ethanol at 20° C. The mixture was then stirred at 20° C. for 2 hours and at 50° C. for 5 hours. The precipitate was filtered off and washed with ethanol until the residue was only pale yellowish and then with water until neutral. 33.6 g of 3-(p-diethylaminophenyl) -1,5-diphenylpentane-1,5-dione were obtained. The almost colorless crystals melt at 110° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | p-diethylaminobenzaldehyde | 17.7 g | C(C)N(C1=CC=C(C=O)C=C1)CC | C11H15NO
reactant | acetophenone | 26.4 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-(p-diethylaminophenyl) -1,5-diphenylpentane-1,5-dione | 33.6 g | C(C)N(C1=CC=C(C=C1)C(CC(=O)C1=CC=CC=C1)CC(=O)C1=CC=CC=C1)CC | C27H29NO2
